US05703052
(2α,5α,25R)-2-bromospirostan-3-one
A mixture of (5α,25R)-spirostan-3-one (1.00 g, 2.41 mmol) and tetrahydrofuran (10 mL) was cooled to -78° C. under nitrogen atmosphere. Bromine was added (0.39 g, 2.41 mmol) and the reaction mixture was gradually warmed to room temperature. After three hours, the reaction was quenched by the addition of saturated sodium bisulfite solution. The mixture was diluted with ethyl acetate, washed with saturated sodium bisulfite solution (1×), saturated sodium bicarbonate (1×), brine (1×), dried (sodium sulfate), filtered, and concentrated in vacuo, Upon addition of ether, a precipitate formed which was filtered and washed with hexanes to give 1.20 g, (85%) of the title compound.

reactant | (5α,25R)-spirostan-3-one | 2.41 mmol, 1.00 g | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5CC(CC[C@]5(C)[C@H]4CC[C@]23C)=O)O[C@]12CC[C@@H](C)CO2 | C27H42O3
reactant | Bromine | BrBr | Br2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2α,5α,25R)-2-bromospirostan-3-one | 85% | Br[C@H]1C(C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4(CC[C@@H]3[C@]2(C1)C)C)=O | C27H41BrO3
